US08492376B2
trans-8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-sulfonic acid dimethylamide
To a solution of trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (50.0 mg, 0.126 mmol) and triethylamine (0.035 ml, 0.251 mmol) in dichloromethane (0.6 ml) was added dimethyl sulfamoyl chloride (0.27 ml, 0.251 mmol) at room temperature. Stirring for 20 h was followed by quenching with methanol (0.5 ml). The mixture was concentrated in vacuo. Preparative RP-HPLC with water (0.05% formic acid)/methanol as eluent gave the title compound (39 mg, 61%) as white solid. MS m/e: 505 ([M+H]+)

reactant | trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.126 mmol, 50.0 mg | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C21H21ClFN5
reactant | triethylamine | 0.251 mmol, 0.035 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfamoyl chloride | 0.251 mmol, 0.27 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | trans-8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-sulfonic acid dimethylamide | 39 mg, 61% | CN(S(=O)(=O)N1CC2=C(N3C(=NN=C3C1)[C@@H]1CC[C@H](CC1)C1=NC=CC=C1F)C=CC(=C2)Cl)C | C23H26ClFN6O2S
